US07282501B2
Step C: 2-(4-Benzyloxy-2-carbamoylmethyl-phenoxy)-2-methyl-propionic acid ethyl ester
2-(4-Benzyloxy-2-carboxymethyl-phenoxy)-2-methyl-propionic acid ethyl ester (500 mg, 1.34 mmol), ammonium chloride (108 mg, 2.02 mmol), EDC (3.86 mg, 2.01 mmol), and N-hydroxybenzotriazole hydrate (272 mg, 2.01 mmol) were combined in a flask and diluted with DMF (5 mL). Ethyl diisopropyl amine (0.70 mL, 4.0 mmol) was added. The solution was stirred for 18 h and partitioned between EtOAc (25 mL) and 1N HCl (10 mL). The organic layer was washed with saturated NaHCO3 solution (10 mL) then brine (10 mL), dried (Na2SO4), and concentrated. The crude product was purified by radial chromatography (hexanes/EtOAc 1/2 to 1/4) to give the title compound (430 mg, 86%).

reactant | 2-(4-Benzyloxy-2-carboxymethyl-phenoxy)-2-methyl-propionic acid ethyl ester | 1.34 mmol, 500 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(=O)O)=O | C21H24O6
reactant | ammonium chloride | 2.02 mmol, 108 mg | [Cl-].[NH4+]
reactant | EDC | 2.01 mmol, 3.86 mg
reactant | N-hydroxybenzotriazole hydrate | 2.01 mmol, 272 mg | O.ON1N=NC2=C1C=CC=C2
reactant | Ethyl diisopropyl amine | 4.0 mmol, 0.70 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-Benzyloxy-2-carbamoylmethyl-phenoxy)-2-methyl-propionic acid ethyl ester | 430 mg, 86% | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(N)=O)=O | C21H25NO5
